US07696192B2
Step A. 5-Chloro-2,1,3-benzoselenadiazole
A solution of 4-chlorobenzene-1,2-diamine (1.50 g, 10.5 mmol) in EtOH (15 mL) was heated to reflux and selenium dioxide (1.28 g, 11.5 mmol) was added. The reaction was refluxed for 30 min and cooled to ambient temperature. The precipitated solid was filtered, washed thoroughly with H2O and dried under high vacuum to give the title compound. MS: m/z=219 (M+1).

reactant | 4-chlorobenzene-1,2-diamine | 10.5 mmol, 1.50 g | ClC=1C=C(C(=CC1)N)N | C6H7ClN2
reactant | selenium dioxide | 11.5 mmol, 1.28 g | [Se](=O)=O | O2Se
solvent | EtOH | 15 mL | CCO | C2H6O
product | 5-Chloro-2,1,3-benzoselenadiazole | ClC1=CC=2C(=N[Se]N2)C=C1 | C6H3ClN2Se
